US09447106B2
Compound 71: 8-Amino-2-(4-phenoxyphenyl)-5,6-dihydro-4H-benzo[f]pyrazolo[1,5-a][1,3]diazepine-3-carboxamide
To the solution of 8-nitro-2-(4-phenoxyphenyl)-5,6-dihydro-4H-benzo[f]pyrazolo[1,5-a][1,3]diazepine-3-carboxamide (80 mg, 0.18 mmol) in ethanol (20 mL) was added 10% w/w Pd/C (20 mg), the reaction was stirred at RT under H2 for about 3 hr. Filtered and washed with CH3OH (20 mL), the filtrate was concentrated under reduced pressure, the residue was purified by Pre-TLC (DCM/CH3OH=20/1) to afford the product as a white solid (20 mg, 26.8%). 1H NMR (400 MHz, DMSO-d6) δ 7.73-7.69 (m, 1H), 7.59-7.55 (m, 2H), 7.45-7.40 (m, 3H), 7.21-7.16 (m, 1H), 7.13-7.07 (m, 4H), 6.59-6.54 (m, 1H), 6.50-6.47 (m, 1H), 5.70-5.40 (br s, 2H), 3.64-3.59 (m, 2H), 2.99-2.94 (m, 2H). MS (ESI) m/e [M+1]+ 412.

reactant | 8-nitro-2-(4-phenoxyphenyl)-5,6-dihydro-4H-benzo[f]pyrazolo[1,5-a][1,3]diazepine-3-carboxamide | 0.18 mmol, 80 mg | [N+](=O)([O-])C=1C=CC2=C(CCNC=3N2N=C(C3C(=O)N)C3=CC=C(C=C3)OC3=CC=CC=C3)C1 | C24H19N5O4
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 8-Amino-2-(4-phenoxyphenyl)-5,6-dihydro-4H-benzo[f]pyrazolo[1,5-a][1,3]diazepine-3-carboxamide | 20 mg, 26.8% | NC=1C=CC2=C(CCNC=3N2N=C(C3C(=O)N)C3=CC=C(C=C3)OC3=CC=CC=C3)C1 | C24H21N5O2
